US05545636
4-(Indol-1-yl)-piperidine-1-carboxylic acid ethyl ester
To a solution of 1-N-(1-benzyl-piperidin-4-yl)-indole (100 g, 0.344 mol) in methylene chloride (1 L) was added ethyl chloroformate (99.2 mL) dropwise with stirring. The mixture was refluxed for 48 hours, cooled to room temperature, and concentrated. The residue was crystallized from i-propanol to give the title compound as colorless crystals (50 g, 53% yield). M. Pt.: 127° C.

reactant | 1-N-(1-benzyl-piperidin-4-yl)-indole | 0.344 mol, 100 g | C(C1=CC=CC=C1)N1CCC(CC1)N1C=CC2=CC=CC=C12 | C20H22N2
reactant | ethyl chloroformate | 99.2 mL | ClC(=O)OCC | C3H5ClO2
solvent | methylene chloride | 1 L | C(Cl)Cl | CH2Cl2
product | 4-(Indol-1-yl)-piperidine-1-carboxylic acid ethyl ester | 50 g, 53% yield | C(C)OC(=O)N1CCC(CC1)N1C=CC2=CC=CC=C12 | C16H20N2O2
